US07618989B2
Step 5: 2-(4,4-Dimethyl-2-oxo-1,3-oxazolidin-3-yl)-4,5-dihydronaphtho[1,2-d][1,3]thiazole-7-carbonitrile
In the same manner as described in step 4 of Example 4, replacing 2-fluoro-4-{2-[(2-hydroxy-1,1-dimethyl-ethyl)amino]-1,3-thiazol-4-yl}benzonitrile with 2-[(2-hydroxy-1,1-dimethylethyl)amino]-4,5-dihydronaphtho[1,2-d][1,3]thiazole-7-carbonitrile, prepared in the previous step, and purification of the crude product on silica using a stepwise gradient of 6:1 to 1:1 hexane:ethyl acetate as the eluent gave the title compound (2.7 g, 93%), mp>230° C. (dec.).

reactant | 2-[(2-hydroxy-1,1-dimethylethyl)amino]-4,5-dihydronaphtho[1,2-d][1,3]thiazole-7-carbonitrile | OCC(C)(C)NC=1SC2=C(N1)C1=CC=C(C=C1CC2)C#N | C16H17N3OS
reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4,4-Dimethyl-2-oxo-1,3-oxazolidin-3-yl)-4,5-dihydronaphtho[1,2-d][1,3]thiazole-7-carbonitrile | 2.7 g, 93% | CC1(N(C(OC1)=O)C=1SC2=C(N1)C1=CC=C(C=C1CC2)C#N)C | C17H15N3O2S
